* D:\hackathon\finalSubmission\finalSubmission.cir

* EESchema Netlist Version 1.1 (Spice format) creation date: 11/08/24 19:34:26

* To exclude a component from the Spice Netlist add [Spice_Netlist_Enabled] user FIELD set to: N
* To reorder the component spice node sequence add [Spice_Node_Sequence] user FIELD and define sequence: 2,1,0

* Sheet Name: /
Map1  -A A Net-_Map1-Pad3_ Net-_Map1-Pad3_ mosfet_p		
Man1  -A A -C -C mosfet_n		
Mbp1  -B -C Net-_Mbp1-Pad3_ Net-_Mbp1-Pad3_ mosfet_p		
Mbn1  -B -C -C -C mosfet_n		
Mbp2  -C -C Net-_Mbp2-Pad3_ Net-_Mbp2-Pad3_ mosfet_p		
Mbn2  -C -C -C -C mosfet_n		
Mbp3  -C -C Net-_Mbp3-Pad3_ Net-_Mbp3-Pad3_ mosfet_p		
Mbn3  -C -C -C -C mosfet_n		
M111  Net-_M111-Pad1_ -A Net-_M111-Pad3_ Net-_M111-Pad3_ mosfet_p		
M112  Net-_M111-Pad1_ -C Net-_M111-Pad3_ Net-_M111-Pad3_ mosfet_p		
M121  Net-_M121-Pad1_ A Net-_M111-Pad1_ Net-_M111-Pad1_ mosfet_p		
M122  Net-_M121-Pad1_ -B Net-_M111-Pad1_ Net-_M111-Pad1_ mosfet_p		
M123  Net-_M121-Pad1_ -C Net-_M111-Pad1_ Net-_M111-Pad1_ mosfet_p		
M131  Net-_M131-Pad1_ -A Net-_M121-Pad1_ Net-_M121-Pad1_ mosfet_p		
M132  Net-_M131-Pad1_ -C Net-_M121-Pad1_ Net-_M121-Pad1_ mosfet_p		
M133  Net-_M131-Pad1_ -C Net-_M121-Pad1_ Net-_M121-Pad1_ mosfet_p		
M141  Net-_M1111-Pad1_ -C Net-_M131-Pad1_ Net-_M131-Pad1_ mosfet_p		
M142  Net-_M1111-Pad1_ -B Net-_M131-Pad1_ Net-_M131-Pad1_ mosfet_p		
M143  Net-_M1111-Pad1_ -A Net-_M131-Pad1_ Net-_M131-Pad1_ mosfet_p		
M1211  Net-_M1111-Pad1_ A Net-_M1211-Pad3_ Net-_M1211-Pad3_ mosfet_n		
M1221  Net-_M1211-Pad3_ -B Net-_M1221-Pad3_ Net-_M1221-Pad3_ mosfet_n		
M1311  Net-_M1111-Pad1_ -A Net-_M1311-Pad3_ Net-_M1311-Pad3_ mosfet_n		
M1321  Net-_M1311-Pad3_ -C Net-_M1321-Pad3_ Net-_M1321-Pad3_ mosfet_n		
M1331  Net-_M1321-Pad3_ -C -C -C mosfet_n		
M1411  Net-_M1111-Pad1_ -A Net-_M1411-Pad3_ Net-_M1411-Pad3_ mosfet_n		
M1421  Net-_M1411-Pad3_ -B Net-_M1421-Pad3_ Net-_M1421-Pad3_ mosfet_n		
M1431  Net-_M1421-Pad3_ -C -C -C mosfet_n		
M1111  Net-_M1111-Pad1_ -A Net-_M1111-Pad3_ Net-_M1111-Pad3_ mosfet_n		
M1121  Net-_M1111-Pad3_ -C -C -C mosfet_n		
M1231  Net-_M1221-Pad3_ -C -C -C mosfet_n		
M211  Net-_M211-Pad1_ -A Net-_M211-Pad3_ Net-_M211-Pad3_ mosfet_p		
M212  Net-_M211-Pad1_ -B Net-_M211-Pad3_ Net-_M211-Pad3_ mosfet_p		
M221  Net-_M221-Pad1_ -B Net-_M211-Pad1_ Net-_M211-Pad1_ mosfet_p		
M222  Net-_M221-Pad1_ -C Net-_M211-Pad1_ Net-_M211-Pad1_ mosfet_p		
M231  Net-_M231-Pad1_ -A Net-_M221-Pad1_ Net-_M221-Pad1_ mosfet_p		
M232  Net-_M231-Pad1_ -C Net-_M221-Pad1_ Net-_M221-Pad1_ mosfet_p		
M233  Net-_M231-Pad1_ -C Net-_M221-Pad1_ Net-_M221-Pad1_ mosfet_p		
M241  Net-_M2111-Pad1_ -A Net-_M231-Pad1_ Net-_M231-Pad1_ mosfet_p		
M242  Net-_M2111-Pad1_ -C Net-_M231-Pad1_ Net-_M231-Pad1_ mosfet_p		
M243  Net-_M2111-Pad1_ -C Net-_M231-Pad1_ Net-_M231-Pad1_ mosfet_p		
v111  Net-_Map1-Pad3_ -C 5		
v22  Net-_Mbp1-Pad3_ -C 5		
v33  Net-_Mbp2-Pad3_ -C 5		
v44  Net-_Mbp3-Pad3_ -C 5		
va1  Net-_M111-Pad3_ -C 5		
M2111  Net-_M2111-Pad1_ -A Net-_M2111-Pad3_ Net-_M2111-Pad3_ mosfet_n		
M2121  Net-_M2111-Pad3_ -B -C -C mosfet_n		
M2211  Net-_M2111-Pad1_ -B Net-_M2211-Pad3_ Net-_M2211-Pad3_ mosfet_n		
M2221  Net-_M2211-Pad3_ -C -C -C mosfet_n		
M2311  Net-_M2111-Pad1_ -A Net-_M2311-Pad3_ Net-_M2311-Pad3_ mosfet_n		
M2321  Net-_M2311-Pad3_ -C Net-_M2321-Pad3_ Net-_M2321-Pad3_ mosfet_n		
M2331  Net-_M2321-Pad3_ -C -C -C mosfet_n		
M2411  Net-_M2111-Pad1_ -A Net-_M2411-Pad3_ Net-_M2411-Pad3_ mosfet_n		
M2421  Net-_M2411-Pad3_ -C Net-_M2421-Pad3_ Net-_M2421-Pad3_ mosfet_n		
M2431  Net-_M2421-Pad3_ -C -C -C mosfet_n		
vb1  Net-_M211-Pad3_ -C 5		
M311  Net-_M311-Pad1_ -A Net-_M311-Pad3_ Net-_M311-Pad3_ mosfet_p		
M312  Net-_M311-Pad1_ -C Net-_M311-Pad3_ Net-_M311-Pad3_ mosfet_p		
M321  Net-_M321-Pad1_ -A Net-_M311-Pad1_ Net-_M311-Pad1_ mosfet_p		
M322  Net-_M321-Pad1_ -C Net-_M311-Pad1_ Net-_M311-Pad1_ mosfet_p		
M331  Net-_M331-Pad1_ -B Net-_M321-Pad1_ Net-_M321-Pad1_ mosfet_p		
M332  Net-_M331-Pad1_ -C Net-_M321-Pad1_ Net-_M321-Pad1_ mosfet_p		
M341  Net-_M3111-Pad1_ -A Net-_M331-Pad1_ Net-_M331-Pad1_ mosfet_p		
M342  Net-_M3111-Pad1_ -C Net-_M331-Pad1_ Net-_M331-Pad1_ mosfet_p		
M3111  Net-_M3111-Pad1_ -A Net-_M3111-Pad3_ Net-_M3111-Pad3_ mosfet_n		
M3121  Net-_M3111-Pad3_ -C -C -C mosfet_n		
M3211  Net-_M3111-Pad1_ -A Net-_M3211-Pad3_ Net-_M3211-Pad3_ mosfet_n		
M3221  Net-_M3211-Pad3_ -C -C -C mosfet_n		
M3311  Net-_M3111-Pad1_ -B Net-_M3311-Pad3_ Net-_M3311-Pad3_ mosfet_n		
M3321  Net-_M3311-Pad3_ -C -C -C mosfet_n		
M3411  Net-_M3111-Pad1_ -A Net-_M3411-Pad3_ Net-_M3411-Pad3_ mosfet_n		
M3421  Net-_M3411-Pad3_ -C -C -C mosfet_n		
vc1  Net-_M311-Pad3_ -C 5		
M411  Net-_M411-Pad1_ -B Net-_M411-Pad3_ Net-_M411-Pad3_ mosfet_p		
M412  Net-_M411-Pad1_ -C Net-_M411-Pad3_ Net-_M411-Pad3_ mosfet_p		
M413  Net-_M411-Pad1_ -C Net-_M411-Pad3_ Net-_M411-Pad3_ mosfet_p		
M421  Net-_M421-Pad1_ -A Net-_M411-Pad1_ Net-_M411-Pad1_ mosfet_p		
M422  Net-_M421-Pad1_ -C Net-_M411-Pad1_ Net-_M411-Pad1_ mosfet_p		
M423  Net-_M421-Pad1_ -C Net-_M411-Pad1_ Net-_M411-Pad1_ mosfet_p		
M431  Net-_M431-Pad1_ A Net-_M421-Pad1_ Net-_M421-Pad1_ mosfet_p		
M432  Net-_M431-Pad1_ -B Net-_M421-Pad1_ Net-_M421-Pad1_ mosfet_p		
M433  Net-_M431-Pad1_ -C Net-_M421-Pad1_ Net-_M421-Pad1_ mosfet_p		
M441  Net-_M441-Pad1_ -A Net-_M431-Pad1_ Net-_M431-Pad1_ mosfet_p		
M442  Net-_M441-Pad1_ -B Net-_M431-Pad1_ Net-_M431-Pad1_ mosfet_p		
M443  Net-_M441-Pad1_ -C Net-_M431-Pad1_ Net-_M431-Pad1_ mosfet_p		
M451  Net-_M4111-Pad1_ -A Net-_M441-Pad1_ Net-_M441-Pad1_ mosfet_p		
M452  Net-_M4111-Pad1_ -C Net-_M441-Pad1_ Net-_M441-Pad1_ mosfet_p		
M453  Net-_M4111-Pad1_ -C Net-_M441-Pad1_ Net-_M441-Pad1_ mosfet_p		
M454  Net-_M4111-Pad1_ -C Net-_M441-Pad1_ Net-_M441-Pad1_ mosfet_p		
M4111  Net-_M4111-Pad1_ -B Net-_M4111-Pad3_ Net-_M4111-Pad3_ mosfet_n		
M4121  Net-_M4111-Pad3_ -C Net-_M4121-Pad3_ Net-_M4121-Pad3_ mosfet_n		
M4131  Net-_M4121-Pad3_ -C -C -C mosfet_n		
M4211  Net-_M4111-Pad1_ -A Net-_M4211-Pad3_ Net-_M4211-Pad3_ mosfet_n		
M4221  Net-_M4211-Pad3_ -C Net-_M4221-Pad3_ Net-_M4221-Pad3_ mosfet_n		
M4231  Net-_M4221-Pad3_ -C -C -C mosfet_n		
M4311  Net-_M4111-Pad1_ A Net-_M4311-Pad3_ Net-_M4311-Pad3_ mosfet_n		
M4321  Net-_M4311-Pad3_ -B Net-_M4321-Pad3_ Net-_M4321-Pad3_ mosfet_n		
M4331  Net-_M4321-Pad3_ -C -C -C mosfet_n		
M4411  Net-_M4111-Pad1_ -A Net-_M4411-Pad3_ Net-_M4411-Pad3_ mosfet_n		
M4421  Net-_M4411-Pad3_ -B Net-_M4421-Pad3_ Net-_M4421-Pad3_ mosfet_n		
M4431  Net-_M4421-Pad3_ -C -C -C mosfet_n		
M4511  Net-_M4111-Pad1_ -A Net-_M4511-Pad3_ Net-_M4511-Pad3_ mosfet_n		
M4521  Net-_M4511-Pad3_ -C Net-_M4521-Pad3_ Net-_M4521-Pad3_ mosfet_n		
M4531  Net-_M4521-Pad3_ -C Net-_M4531-Pad3_ Net-_M4531-Pad3_ mosfet_n		
M4541  Net-_M4531-Pad3_ -C -C -C mosfet_n		
vd1  Net-_M411-Pad3_ -C 5		
M511  Net-_M511-Pad1_ -B Net-_M511-Pad3_ Net-_M511-Pad3_ mosfet_p		
M521  Net-_M5111-Pad1_ -A Net-_M511-Pad1_ Net-_M511-Pad1_ mosfet_p		
M512  Net-_M511-Pad1_ -C Net-_M511-Pad3_ Net-_M511-Pad3_ mosfet_p		
M513  Net-_M511-Pad1_ -C Net-_M511-Pad3_ Net-_M511-Pad3_ mosfet_p		
M522  Net-_M5111-Pad1_ -C Net-_M511-Pad1_ Net-_M511-Pad1_ mosfet_p		
M523  Net-_M5111-Pad1_ -C Net-_M511-Pad1_ Net-_M511-Pad1_ mosfet_p		
M5111  Net-_M5111-Pad1_ -B Net-_M5111-Pad3_ Net-_M5111-Pad3_ mosfet_n		
M5121  Net-_M5111-Pad3_ -C Net-_M5121-Pad3_ Net-_M5121-Pad3_ mosfet_n		
M5131  Net-_M5121-Pad3_ -C -C -C mosfet_n		
M5211  Net-_M5111-Pad1_ -A Net-_M5211-Pad3_ Net-_M5211-Pad3_ mosfet_n		
M5221  Net-_M5211-Pad3_ -C Net-_M5221-Pad3_ Net-_M5221-Pad3_ mosfet_n		
M5231  Net-_M5221-Pad3_ -C -C -C mosfet_n		
ve1  Net-_M511-Pad3_ -C 5		
M611  Net-_M611-Pad1_ -A Net-_M611-Pad3_ Net-_M611-Pad3_ mosfet_p		
M612  Net-_M611-Pad1_ -C Net-_M611-Pad3_ Net-_M611-Pad3_ mosfet_p		
M613  Net-_M611-Pad1_ -C Net-_M611-Pad3_ Net-_M611-Pad3_ mosfet_p		
M621  Net-_M621-Pad1_ -A Net-_M611-Pad1_ Net-_M611-Pad1_ mosfet_p		
M622  Net-_M621-Pad1_ -C Net-_M611-Pad1_ Net-_M611-Pad1_ mosfet_p		
M623  Net-_M621-Pad1_ -C Net-_M611-Pad1_ Net-_M611-Pad1_ mosfet_p		
M631  Net-_M631-Pad1_ -A Net-_M621-Pad1_ Net-_M621-Pad1_ mosfet_p		
M632  Net-_M631-Pad1_ -C Net-_M621-Pad1_ Net-_M621-Pad1_ mosfet_p		
M633  Net-_M631-Pad1_ -C Net-_M621-Pad1_ Net-_M621-Pad1_ mosfet_p		
M641  Net-_M6111-Pad1_ A Net-_M631-Pad1_ Net-_M631-Pad1_ mosfet_p		
M642  Net-_M6111-Pad1_ -B Net-_M631-Pad1_ Net-_M631-Pad1_ mosfet_p		
M643  Net-_M6111-Pad1_ -C Net-_M631-Pad1_ Net-_M631-Pad1_ mosfet_p		
M6111  Net-_M6111-Pad1_ -A Net-_M6111-Pad3_ Net-_M6111-Pad3_ mosfet_n		
M6121  Net-_M6111-Pad3_ -C Net-_M6121-Pad3_ Net-_M6121-Pad3_ mosfet_n		
M6131  Net-_M6121-Pad3_ -C -C -C mosfet_n		
M6211  Net-_M6111-Pad1_ -A Net-_M6211-Pad3_ Net-_M6211-Pad3_ mosfet_n		
M6221  Net-_M6211-Pad3_ -C Net-_M6221-Pad3_ Net-_M6221-Pad3_ mosfet_n		
M6231  Net-_M6221-Pad3_ -C -C -C mosfet_n		
M6311  Net-_M6111-Pad1_ -A Net-_M6311-Pad3_ Net-_M6311-Pad3_ mosfet_n		
M6321  Net-_M6311-Pad3_ -C Net-_M6321-Pad3_ Net-_M6321-Pad3_ mosfet_n		
M6331  Net-_M6321-Pad3_ -C -C -C mosfet_n		
M6411  Net-_M6111-Pad1_ A Net-_M6411-Pad3_ Net-_M6411-Pad3_ mosfet_n		
M6421  Net-_M6411-Pad3_ -B Net-_M6421-Pad3_ Net-_M6421-Pad3_ mosfet_n		
M6431  Net-_M6421-Pad3_ -C -C -C mosfet_n		
vf1  Net-_M611-Pad3_ -C 5		
M713  Net-_M711-Pad1_ -C Net-_M711-Pad3_ Net-_M711-Pad3_ mosfet_p		
M712  Net-_M711-Pad1_ -B Net-_M711-Pad3_ Net-_M711-Pad3_ mosfet_p		
M711  Net-_M711-Pad1_ -A Net-_M711-Pad3_ Net-_M711-Pad3_ mosfet_p		
M723  Net-_M721-Pad1_ -C Net-_M711-Pad1_ Net-_M711-Pad1_ mosfet_p		
M722  Net-_M721-Pad1_ -C Net-_M711-Pad1_ Net-_M711-Pad1_ mosfet_p		
M721  Net-_M721-Pad1_ -A Net-_M711-Pad1_ Net-_M711-Pad1_ mosfet_p		
M733  Net-_M731-Pad1_ -C Net-_M721-Pad1_ Net-_M721-Pad1_ mosfet_p		
M732  Net-_M731-Pad1_ -C Net-_M721-Pad1_ Net-_M721-Pad1_ mosfet_p		
M731  Net-_M731-Pad1_ -A Net-_M721-Pad1_ Net-_M721-Pad1_ mosfet_p		
M743  Net-_M7111-Pad1_ -B Net-_M731-Pad1_ Net-_M731-Pad1_ mosfet_p		
M742  Net-_M7111-Pad1_ -C Net-_M731-Pad1_ Net-_M731-Pad1_ mosfet_p		
M741  Net-_M7111-Pad1_ A Net-_M731-Pad1_ Net-_M731-Pad1_ mosfet_p		
vg1  Net-_M711-Pad3_ -C 5		
M7411  Net-_M7111-Pad1_ A Net-_M7411-Pad3_ Net-_M7411-Pad3_ mosfet_n		
M7311  Net-_M7111-Pad1_ -A Net-_M7311-Pad3_ Net-_M7311-Pad3_ mosfet_n		
M7211  Net-_M7111-Pad1_ -A Net-_M7211-Pad3_ Net-_M7211-Pad3_ mosfet_n		
M7111  Net-_M7111-Pad1_ -A Net-_M7111-Pad3_ Net-_M7111-Pad3_ mosfet_n		
M7421  Net-_M7411-Pad3_ -B Net-_M7421-Pad3_ Net-_M7421-Pad3_ mosfet_n		
M7321  Net-_M7311-Pad3_ -C Net-_M7321-Pad3_ Net-_M7321-Pad3_ mosfet_n		
M7221  Net-_M7211-Pad3_ -C Net-_M7221-Pad3_ Net-_M7221-Pad3_ mosfet_n		
M7121  Net-_M7111-Pad3_ -B Net-_M7121-Pad3_ Net-_M7121-Pad3_ mosfet_n		
M7431  Net-_M7421-Pad3_ -C -C -C mosfet_n		
M7331  Net-_M7321-Pad3_ -C -C -C mosfet_n		
M7231  Net-_M7221-Pad3_ -C -C -C mosfet_n		
M7131  Net-_M7121-Pad3_ -C -C -C mosfet_n		
M81  PIN-A Net-_M1111-Pad1_ Net-_M81-Pad3_ Net-_M81-Pad3_ mosfet_p		
M82  PIN-A Net-_M1111-Pad1_ -C -C mosfet_n		
v11  Net-_M81-Pad3_ -C 5		
M83  PIN-B Net-_M2111-Pad1_ Net-_M83-Pad3_ Net-_M83-Pad3_ mosfet_p		
M84  PIN-B Net-_M2111-Pad1_ -C -C mosfet_n		
v12  Net-_M83-Pad3_ -C 5		
M85  PIN-C Net-_M3111-Pad1_ Net-_M85-Pad3_ Net-_M85-Pad3_ mosfet_p		
M86  PIN-C Net-_M3111-Pad1_ -C -C mosfet_n		
v13  Net-_M85-Pad3_ -C 5		
M87  PIN-D Net-_M4111-Pad1_ Net-_M87-Pad3_ Net-_M87-Pad3_ mosfet_p		
M88  PIN-D Net-_M4111-Pad1_ -C -C mosfet_n		
v14  Net-_M87-Pad3_ -C 5		
M89  PIN-E Net-_M5111-Pad1_ Net-_M89-Pad3_ Net-_M89-Pad3_ mosfet_p		
M90  PIN-E Net-_M5111-Pad1_ -C -C mosfet_n		
v15  Net-_M89-Pad3_ -C 5		
M91  PIN-F Net-_M6111-Pad1_ Net-_M91-Pad3_ Net-_M91-Pad3_ mosfet_p		
M92  PIN-F Net-_M6111-Pad1_ -C -C mosfet_n		
v16  Net-_M91-Pad3_ -C 5		
M93  PIN-G Net-_M7111-Pad1_ Net-_M93-Pad3_ Net-_M93-Pad3_ mosfet_p		
M94  PIN-G Net-_M7111-Pad1_ -C -C mosfet_n		
v17  Net-_M93-Pad3_ -C 5		
v1s1  A -C 5		
U1  PIN-A plot_v1		
U2  PIN-B plot_v1		
U3  PIN-C plot_v1		
U4  PIN-D plot_v1		
U5  PIN-E plot_v1		
U6  PIN-F plot_v1		
U7  PIN-G plot_v1		

.end
